US08349886B2
1-(6-{5-[1-(4-methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)-2-(tetrahydro-2H-pyran-4-yl)ethyl]-1H-pyrrol-2-yl}pyridin-3-yl)-2-methylpropane-1,2-diol
A mixture of 1-[5-(1,2-dihydroxy-2-methylpropyl)pyridin-2-yl]-5-(4-methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)-6-(tetrahydro-2H-pyran-4-yl)hexane-1,4-dione (265 mg), ammonium acetate (200 mg), acetic acid (0.20 mL) and ethanol (10 mL) was stirred at room temperature for 6 hr. The reaction solution was poured into aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (178 mg, yield 58%) as a colorless amorphous solid from the fraction eluted with ethyl acetate. MS: 492 (MH+).

reactant | 1-[5-(1,2-dihydroxy-2-methylpropyl)pyridin-2-yl]-5-(4-methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)-6-(tetrahydro-2H-pyran-4-yl)hexane-1,4-dione | 265 mg | OC(C(C)(C)O)C=1C=CC(=NC1)C(CCC(C(CC1CCOCC1)N1N=CC=2C1=NC=CC2OC)=O)=O | C27H34N4O6
reactant | ammonium acetate | 200 mg | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 0.20 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(6-{5-[1-(4-methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)-2-(tetrahydro-2H-pyran-4-yl)ethyl]-1H-pyrrol-2-yl}pyridin-3-yl)-2-methylpropane-1,2-diol | 178 mg, yield 58% | COC1=C2C(=NC=C1)N(N=C2)C(CC2CCOCC2)C2=CC=C(N2)C2=CC=C(C=N2)C(C(C)(O)C)O | C27H33N5O4
